US06063782
Methyl 3-formyl-4,5-dimethyl-1-(4,4,4-trifluoro-2-butenyl)pyrrole-2-carboxylate
The title compound (trans) was prepared as a pale yellow oil in 60.0% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 4,4,4-trifluoro-2-butenyl methanesulfonate (trans).

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 4,4,4-trifluoro-2-butenyl methanesulfonate | CS(=O)(=O)OCC=CC(F)(F)F | C5H7F3O3S
product | Methyl 3-formyl-4,5-dimethyl-1-(4,4,4-trifluoro-2-butenyl)pyrrole-2-carboxylate | C(=O)C1=C(N(C(=C1C)C)CC=CC(F)(F)F)C(=O)OC | C13H14F3NO3
